* SpiceNetList
* 
* Exported from Simulated03.sch at 24.01.2020 16:24
* 
* EAGLE Version 9.5.2 Copyright (c) 1988-2019 Autodesk, Inc.
* 
.TEMP=25.000000
* --------- .OPTIONS ---------
* --------- .PARAMS ---------
.PARAM RATIO=1/10

* --------- devices ---------
X_X1 VIN 0 VOUT 0 XFORMER 
V_VCUR_1 VGL GNDGL DC 0V AC 0 
R_R2 GNDGL2 GNDGL 10 
D_D3 GNDGL2 N_4 DMOD 
D_D1 N_4 VGL DMOD 
V_V1 N_2 0 DC 0V AC 240V SIN(0 240 50hz 0 0) 
R_R1 N_2 VIN 0.1 
D_D4 GNDGL2 VOUT DMOD 
D_D2 VOUT VGL DMOD 
R_R3 0 N_4 10 

* --------- models ---------

* (model found in library)

**********************
* Autodesk EAGLE - Spice Model File
* transformer subcircuit, requires RATIO parameter defined
* Date: 10/1/17
**********************
.SUBCKT XFORMER 1 2 3 4
E 5 4 1 2 {RATIO}
F 1 2 VM {RATIO}
VM 5 6
RP 1 2 1MEG
RS 6 3 1U
.ENDS XFORMER


* (model found in library)

**********************
* Autodesk EAGLE - Spice Model File
* Date: 9/17/17
* basic diode intrinsic model
**********************
.MODEL DMOD D


* --------- simulation ---------
.print DC V(VOUT) V(VIN) V(GNDGL) V(VGL) V(GNDGL2) I(V_V1) I(V_VCUR_1)
.print AC V(VOUT) V(VIN) V(GNDGL) V(VGL) V(GNDGL2) I(V_V1) I(V_VCUR_1)
.print TRAN V(VOUT) V(VIN) V(GNDGL) V(VGL) V(GNDGL2) I(V_V1) I(V_VCUR_1)
.END










